US08541411B2
b) 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-ol
To a solution of 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine (842 mg) in H2O (20 mL), MeOH (1 mL) and conc. H2SO4 (3 mL) was added aqueous NaNO2 (344 mg) solution drop-wise at 0° C. The mixture was stirred at 0° C. for 15 min and then stirred at reflux temperature for 1 h. The mixture was cooled to room temperature and the pH neutralized with aqueous NaHCO3 solution. It was extracted with DCM (100 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo. The residue was then purified by silica gel chromatography eluted with MeOH:DCM=1:60 and then by Prep-HPLC to afford crude desired product LC-MS: m/e=374 [M+1]+ containing an impurity that was removed by the two-step sequence described below.

reactant | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine | 842 mg | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C23H24N4O
reactant | NaNO2 | 344 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 20 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
solvent | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
product | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-ol | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2O)N2CCOCC2 | C23H23N3O2
